US07250413B2
Synthesis: 4-Fluoro-3-trifluoromethyl benzoyl chloride (0.42 mL, 2.77 mmol) was added to a solution of 2-methyl-1H-indol-5-ylamine (472 mg, 3.23 mmol) and triethylamine (0.42 mL, 3.01 mmol) in anhydrous dichloromethane at room temperature. The reaction mixture was stirred at room temperature for two hours then diluted with a 1:1 mixture of ethyl acetate and water (80 mL). The organic layer was washed sequentially with 0.5N HCl, saturated NaHCO3, water, saturated NaCl and dried over anhydrous sodium sulfate. The desired 4-fluoro-N-(2-methyl-1H-indol-5-yl)-3-trifluoromethyl-benzamide was obtained as a purple solid in nearly quantitative yield. This material was taken onto the next step without further purification. 4-Fluoro-N-(2-methyl-1H-indol-5-yl)-3-trifluoromethyl-benzamide (1.02 g, 3.03 mmol) and piperazine (1.83 g, 21.21 mmol) was dissolved in N,N-dimethylformamide (10 mL). The reaction mixture was heated in a sealed glass tube at 125° C. for two and a half hours. The crude mixture was then cooled to room temperature, concentrated and the residue chromatographed with 10% MeOH/CH2Cl2+2% triethylamine to afford N-(2-Methyl-1H-indol-5-yl)-4-piperazin-1-yl-3-trifluoromethyl-benzamide, the title compound (86% yield). 1H NMR (400 MHz , CD3OD) δ 8.26 (d, J=2.3 Hz, 1H), 8.18 (dd, J=8.6, 2.3 Hz, 1H), 7.69 (d, J=1.6 Hz, 1H, 7.55 (d, J=8.6 Hz, 1H), 7.28-7.17 (m, 2H), 2.99 (s, 8H), 2.41 (s, 3H).

reactant | 4-Fluoro-3-trifluoromethyl benzoyl chloride | 2.77 mmol, 0.42 mL | FC1=C(C=C(C(=O)Cl)C=C1)C(F)(F)F | C8H3ClF4O
reactant | 2-methyl-1H-indol-5-ylamine | 3.23 mmol, 472 mg | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
reactant | triethylamine | 3.01 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 80 mL | O | H2O
product | 4-fluoro-N-(2-methyl-1H-indol-5-yl)-3-trifluoromethyl-benzamide | quantitative yield | FC1=C(C=C(C(=O)NC=2C=C3C=C(NC3=CC2)C)C=C1)C(F)(F)F | C17H12F4N2O
